US07153865B2
8-Fluoro-2-chloro-4-(3,4-dichlorophenyl)aminoquinoline
Prepared using general procedure 3; 8-Fluoro-2-hydroxy-4-(3,4-dichlorophenyl)aminoquinoline (3.2 g, 9.90 mmol) and 23 mL of POCl3 were heated to 120° C. for 4 h. Isolation afforded 0.69 g of material (1.98 mmol, 20%). 1H NMR (300 MHz, DMSO): 9.50(s, 1H), 8.17(d, ?H, J=7.67 Hz), 8.04(d, 1H, J=5.25 Hz), 7.79(d, 1H, J=5.65 Hz), 7.71(d, 1H, J=8.88 Hz), 7.61(m, 1H), 7.45(dd, 1H, J=8.88, 2.42 Hz), 6.88(s, 1H).

reactant | 8-Fluoro-2-hydroxy-4-(3,4-dichlorophenyl)aminoquinoline | 9.90 mmol, 3.2 g | FC=1C=CC=C2C(=CC(=NC12)O)NC1=CC(=C(C=C1)Cl)Cl | C15H9Cl2FN2O
reactant | POCl3 | 23 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 8-Fluoro-2-chloro-4-(3,4-dichlorophenyl)aminoquinoline | 1.98 mmol, 0.69 g, 20% | FC=1C=CC=C2C(=CC(=NC12)Cl)NC1=CC(=C(C=C1)Cl)Cl | C15H8Cl3FN2
